US07381719B2
Step 9: 6-(2,3,4,5-Tetrahydro-1H-benzo[d]azepin-7-yloxy)nicotinamide
Dissolve 6-[3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy]nicotinamide (0.306 g, 0.806 mmol) in 7.0 M NH3 in methanol (10 mL). Seal the round bottom and allow to sit without stirring. After three hours, concentrate to give the title compound (0.22 g, 100%): MS ES+ 284.1 (M+H)+; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), acetonitrile in water containing 0.01% concentrated HCl at 1.0 mL/min, 30-99% over 19 min], tR=1.2 min, 93% purity.

reactant | 6-[3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepin-7-yloxy]nicotinamide | 0.806 mmol, 0.306 g | FC(C(=O)N1CCC2=C(CC1)C=C(C=C2)OC2=NC=C(C(=O)N)C=C2)(F)F | C18H16F3N3O3
solvent | NH3 | 7.0 M | N | H3N
solvent | methanol | 10 mL | CO | CH4O
product | 6-(2,3,4,5-Tetrahydro-1H-benzo[d]azepin-7-yloxy)nicotinamide | 0.22 g, 100% | C1CNCCC2=C1C=CC(=C2)OC2=NC=C(C(=O)N)C=C2 | C16H17N3O2
